US03953430
Preparation of 4,9-Dihydro-4-ethyl-10H-thieno[3,4-b] [1,5]benzodiazepin-10-one
To a suspension of 0.246 g. of 4-ethyl-1,3,4,9-tetrahydro-10H-thieno[3,4-b] [1,5]benzodiazepin-10-one in 2 ml. of dry pyridine is added in portions a total of 0.133 g. of N-chlorosuccinimide. The resulting solution is heated on a steam bath for 15 minutes, cooled and diluted with water. The solid is collected and recrystallized from methanol-water to give off-white crystals, m.p. 201°-202°C.

reactant | 4-ethyl-1,3,4,9-tetrahydro-10H-thieno[3,4-b] [1,5]benzodiazepin-10-one | C(C)N1C2=C(C(NC3=C1C=CC=C3)=O)CSC2 | C13H14N2OS
reactant | pyridine | N1=CC=CC=C1 | C5H5N
reactant | N-chlorosuccinimide | ClN1C(CCC1=O)=O | C4H4ClNO2
solvent | water | O | H2O
product | 4,9-Dihydro-4-ethyl-10H-thieno[3,4-b] [1,5]benzodiazepin-10-one | C(C)N1C=2C(C(NC3=C1C=CC=C3)=O)=CSC2 | C13H12N2OS
